Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Dilantin / Latex / Tegaderm
 
Attending: ___
 
Chief Complaint:
suprapubic pain, dysuria
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o F with hx of ESRD s/p transplant in ___ with rejection, 
re-transplant in ___, prsents with 2 days of increasing green 
vaginal discharge. Has several month history of vaginal 
discharge. Also has dysuria and suprapubic pain that started 2 
days ago as well. Has had recurrent UTIs past several months 
that have been difficult to treat per patient. She is unsure of 
dates/timing of these infections and start of the symptoms.  
.  
She has used Metrogel for vaginal infection. She completed a 
course of ampicillin recently on ___ for UTI.  
.  
She presented to ___ where she had a pelvic exam 
that may have been more consistent with PID due to cervical 
motion tenderness. The discharge was consistent with yeast. She 
was transferred to ___ for treatment by her transplant 
specialists. Her gynecologist is Dr. ___.  
.  
In the ED, her T was 98.6, P 68, BP 124/76, 100% RA. She refused 
a pelvic exam since she had already had on that day. Her UA was 
grossly positive and she was given 1 g ceftriaxone. Renal 
transplant was contacted.  

 
Past Medical History:
1) CRT: kidney transplant on ___. Her end-stage  
renal disease was secondary to preeclampsia TTP and her  
transplant course was complicated by TTP like picture suspicious 
 
for humeral rejection. She was treated with extensive  
plasmapheresis and rituximab. Plasmapheresis.  
2) LRT- due to preeclampsia and HUS.  
3) HELPP syndrome with her delivery in ___ seizure and  
hypertension secondary to event.  
4) detached retina, R eye  
5) RUE AVF  
6) HTN  
7) Left Ovarian cyst  
8) Hx of seizures with hypertensive emergency  

 
Social History:
___
Family History:
Mother with MI in her ___ and bypass surgery. DM2 and HTN. 
 
Physical Exam:
Vitals - Tm 100.0, BP 106/60, P 73, R 20, 99% on RA  
Gen - lying in bed, NAD  
HEENT - ATNC, hirtism on chin, supple neck, no LAD  
CV - RRR, no m,r,g  
Lungs - CTA B  
Abd - soft, obese, tender to palpation suprapubically, R>L lower 
quadrant, no other masses, normoactive bowel sounds  
Ext - warm, palp pulses, no edema  
Neuro - CN II-XII intact, no focal deficits, strength ___, motor 
and sensation grossly intact, cerebellar functions normal  

 
Pertinent Results:
___ 02:40AM BLOOD WBC-15.3* RBC-3.92* Hgb-9.2* Hct-29.2* 
MCV-75* MCH-23.6* MCHC-31.6 RDW-14.5 Plt ___
___ 05:15AM BLOOD WBC-11.1* RBC-3.66* Hgb-8.7* Hct-27.6* 
MCV-75* MCH-23.7* MCHC-31.5 RDW-14.7 Plt ___
___ 06:45AM BLOOD WBC-8.8 RBC-3.85* Hgb-9.1* Hct-29.1* 
MCV-76* MCH-23.6* MCHC-31.3 RDW-14.5 Plt ___
___ 06:50AM BLOOD WBC-7.0 RBC-3.76* Hgb-9.0* Hct-28.4* 
MCV-76* MCH-23.8* MCHC-31.5 RDW-14.5 Plt ___
.
___ 02:40AM BLOOD Glucose-102 UreaN-31* Creat-2.6* Na-136 
K-3.8 Cl-105 HCO3-19* AnGap-16
___ 05:15AM BLOOD Glucose-88 UreaN-27* Creat-2.4* Na-140 
K-4.1 Cl-110* HCO3-20* AnGap-14
___ 06:45AM BLOOD Glucose-82 UreaN-27* Creat-2.4* Na-138 
K-4.1 Cl-107 HCO3-19* AnGap-16
___ 06:50AM BLOOD Glucose-78 UreaN-30* Creat-2.4* Na-139 
K-4.0 Cl-107 HCO3-17* AnGap-19
.
___ 05:15AM BLOOD rapmycn-5.4
___ 06:45AM BLOOD rapmycn-3.3*
___ 06:50AM BLOOD rapmycn-2.2*
.
Imaging:
Renal Ultrasound:
IMPRESSION: 
1. No hydronephrosis and no perinephric collection identified. 
2. Appropriate flow in the main renal artery. Mildly elevated 
RIs. 
3. Note is made of a stable-appearing left ovarian cyst. 
.
CT of Abd and Pelvis:
IMPRESSION: 
1. No evidence of intra-abdominal abscess or acute 
intra-abdominal process. 
2. Large left pelvic ovarian cyst is unchanged since ___. 
3. Small Rt adnexal cyst with a tiny calcification. Bilat cysts 
noted on 
prior pelvic US. 

 
Brief Hospital Course:
___ y/o F with hx of renal transplant with worsening vaginal 
discharge, dysuria and suprapubic pain. Positive UTI.  
.  
# Suprapubic pain - resolved, likely from UTI, will continue to 
monitor. Pt comfortable and ambulating without difficulties.  
.  
# ARF - Cr 2.4, stable since yesterday (2.9 on presentation). 
Renal transplant following. Having good urine output. Excpect it 
to continue to improve. Will monitor as inpatient until Cr 
normalized, or at least below 2.1.  Patient was discharge with 
Cr of 2.4 with close follow up. 
.  
# UTI - urine dip positive on admission - pyuria from UTI v. 
contamination from vaginal infection. Still unsure, 2 cultures 
are negative. Received ceftriaxone x2 days, then lost IV access. 
Doxycycline will cover. Complete 5 day course.  
.  
# Vaginal discharge - seems to be chronic problem. Improving. 
Consistent with cervicitis secondary to yeast, althoug OSH test 
neg for yeast. Want to complete ___ecause 
she is clinically improving.  Outside hospital tests were 
negative for yeast, bacterial infection or trichomonas.  
Gonorrhea and chlamydia negative, too.  Unsure of etiology, 
although patient thinks fluconazole is helping.  
.  
# ID - treating yeast infection and UTI, cultures all negative. 
Pt has been afebrile and showing no signs of systemic infection. 
Will continue with doxycyline and fluconazole for now. Continue 
to monitor.  
.  
# Immunesuppression - on prednisone, sirolimus, and cellcept. 
Continue pred 5 mg daily, cellcept 500 mg bid (decreased due to 
interactions with abx) and sirolimus 1 gm daily after level is 
checked. Will continue daily level checks.  
.  
#  Patient discharged home feeling much better.  Suprapubic pain 
resolved and ambulating well.  CT and ultrasound were negative.  
Still think pain may be from UTI vs. vaginal yeast infection.  
Creatinine improved with fluids.  Think patient was not drinking 
because it burned to urinate.  Will have close follow up with 
renal transplant team and return to hosiptal if pain returns.

 
Medications on Admission:
CLONIDINE - 0.2 mg PO qhs  
DILTIAZEM HCL 240mg PO daily  
ERGOCALCIFEROL 50K units qmonth  
LEVETIRACETAM 250mg PO BID  
METOPROLOL TARTRATE 150mg PO BID  
METRONIDAZOLE [METROGEL VAGINAL] - 0.75 % Gel - 1 application  
once a day before bed  
MYCOPHENOLATE MOFETIL 1000mg BID  
NYSTATIN - 100,000 unit/gram Powder - apply to affected area  
daily  
PANTOPRAZOLE 40mg PO daily  
PREDNISONE - 5 mg PO daily  
SIMVASTATIN - 40mg PO daily  
SIROLIMUS [RAPAMUNE] - 1 mg PO daily  
BACTRIM -1 SS ___  
VALSARTAN 120mg PO BID  
FERROUS SULFATE 325mg PO daily  
Multivitamins  

 
Discharge Medications:
1. Diltiazem HCl 240 mg Capsule, Sustained Release Sig: One (1) 
Capsule, Sustained Release PO DAILY (Daily).  
2. Levetiracetam 250 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
3. Metoprolol Tartrate 50 mg Tablet Sig: Three (3) Tablet PO BID 
(2 times a day).  
4. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
5. Prednisone 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

6. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. Trimethoprim-Sulfamethoxazole 160-800 mg Tablet Sig: One (1) 
Tablet PO QMOWEFR (___).  
8. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
9. Doxycycline Hyclate 100 mg Capsule Sig: One (1) Capsule PO 
Q12H (every 12 hours): Stop taking on ___.
Disp:*6 Capsule(s)* Refills:*0*
10. Clonidine 0.1 mg Tablet Sig: One (1) Tablet PO QHS (once a 
day (at bedtime)).  
11. Fluconazole 100 mg Tablet Sig: One (1) Tablet PO Q24H (every 
24 hours): Please end ___.
Disp:*3 Tablet(s)* Refills:*0*
12. Sirolimus 1 mg Tablet Sig: One (1) Tablet PO twice a day.
Disp:*60 Tablet(s)* Refills:*0*
13. Mycophenolate Mofetil 500 mg Tablet Sig: One (1) Tablet PO 
BID (2 times a day).
Disp:*60 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
1. UTI
2. Acute Renal Failure
.
Secondary Diagnosis:
1. Ovarian cysts
2. History of seizure disorder
3. Hypertension

 
Discharge Condition:
vital signs stable, afebrile, ambulating, pain free, normal 
mentation

 
Discharge Instructions:
You were admitted for suprapubic pain, dysuria and vaginal 
discharge.  We were worried that the pain may have been related 
to your transplanted kidney, so we did an ultrasound and CT scan 
that were negative for problems with your kidney.
.
We think you had a urine infection and a yeast infection, 
although we do not have any positive cultures.  We are treating 
you with doxycycline and fluconazole for these infections.  You 
will finish a 7 day course of each.  The end date is ___.
.
These antibiotics can interact with your sirolimus and cellcept 
levels.  We were following them while you were in the hospital.  
Please follow the list of medications closely.  You will need to 
follow up with your nephrologist next week by ___ to have 
your levels rechecked.
.
We also followed your creatinine to see how your kidney function 
was doing.  It was 2.9 on admission and stable at 2.4 on 
discharge.  We think it was higher than normal because you 
hadn't been drinking and were dehydrated.  You probably were 
trying to not drink too much because it hurt to pee.
.
Please return to the hospital with any more pain with urinating, 
abdominal pain, nausea, vomitting, fever or chills.  Or any 
other concerns.  Call ___ if an emergency.
 
Followup Instructions:
___